US09079866B2
5-(3-Fluoro-2′-{[2-(trifluoromethyl)pyrimidin-4-yl]oxy}biphenyl-4-yl)pyrimidin-2-amine
The title compound was prepared in a manner similar to that described in Example 88 using 4-(2-bromophenoxy)-2-(trifluoromethyl)pyrimidine and 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine. MS (ESI): mass calcd. for C21H13F4N5O, 427.11; m/z found, 428.1 [M+H]+. 1H NMR (500 MHz, DMSO-d6) δ 8.78 (d, J=5.7, 1H), 8.37 (m, 2H), 7.57 (dd, J=7.5, 1.8, 1H), 7.48 (m, 3H), 7.39 (dd, J=8.0, 1.3, 1H), 7.33-7.22 (m, 3H), 6.85 (s, 2H).

reactant | 4-(2-bromophenoxy)-2-(trifluoromethyl)pyrimidine | BrC1=C(OC2=NC(=NC=C2)C(F)(F)F)C=CC=C1 | C11H6BrF3N2O
reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
product | 5-(3-Fluoro-2′-{[2-(trifluoromethyl)pyrimidin-4-yl]oxy}biphenyl-4-yl)pyrimidin-2-amine | FC=1C=C(C=CC1C=1C=NC(=NC1)N)C1=C(C=CC=C1)OC1=NC(=NC=C1)C(F)(F)F | C21H13F4N5O
